US05461066
3.9 g of N-diaminomethylene-3-methylsulphonyl-4-(4-aminopiperidino)benzamide trihydrochloride (m.p. 232°-240°) are dissolved in 50 ml of water, and this solution is adjusted to pH 12 using 1N NaOH and stirred. The precipitate which forms is filtered off with suction, washed with 5 ml of water and dried at 50°. N-Diaminomethylene-3-methylsulphonyl-4-(4-aminopiperidino)benzamide is obtained, m.p. 239°-241°.

reactant | N-diaminomethylene-3-methylsulphonyl-4-(4-aminopiperidino)benzamide trihydrochloride | 3.9 g | Cl.Cl.Cl.NC(=NC(C1=CC(=C(C=C1)N1CCC(CC1)N)S(=O)(=O)C)=O)N
reactant | NaOH | 1N | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | N-Diaminomethylene-3-methylsulphonyl-4-(4-aminopiperidino)benzamide | NC(=NC(C1=CC(=C(C=C1)N1CCC(CC1)N)S(=O)(=O)C)=O)N | C14H21N5O3S
